US06472412B1
5% Palladium on charcoal catalyst (2 g) is added to a solution of 5-benzyloxy-4-cyclopentyloxy-2-trityloxymethylpyridine (24.2 g) in ethanol (500 mL) and the mixture stirred at room temperature under a hydrogen atmosphere for 3 hours. After filtering the filtrate is concentrated in vacuo to give a colourless oil which is purified by flash chromatography (n-pentane/ethyl acetate 7:3 v/v as eluent on silica) to give 4-cyclopentyloxy-5-hydroxy-2-trityloxymethylpyridine (18.8 g) as a colourless foam. [1Hnmr in deuterochloroform with Me4Si as standard: 1.70, 2H, m; 1.82, 2H, m; 1.90-2.08, 4H, m; 4.25, 2H, s; 493, 1H, m; 7.19, 1H, s; 7.24, 7.30, 7.49, 15H, Ar; 8.04, 1H, s.].

reactant | 5-benzyloxy-4-cyclopentyloxy-2-trityloxymethylpyridine | 24.2 g | C(C1=CC=CC=C1)OC=1C(=CC(=NC1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC1CCCC1 | C37H35NO3
catalyst | Palladium on charcoal | 2 g | [Pd] | Pd
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 4-cyclopentyloxy-5-hydroxy-2-trityloxymethylpyridine | 18.8 g | C1(CCCC1)OC1=CC(=NC=C1O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29NO3
